US06169088A
To a solution of 2.09 g (10.5 mmol) of commercially available 1,4-dichlorophthalazine in 20 ml of N-methylpyrrolidone were added 7.32 ml (52.5 mmol) of triethylamine and 2.35 g (12.6 mmnol) of N-tert-butoxycarbonylpiperazine, followed by heating at 70° C. with stirring in an atmosphere of argon for 2 hours. The reaction mixture was allowed to cool to room temperature and then poured into water, and sodium chloride was added thereto. The precipitated crystals were collected by filtration, washed with water, and dried, followed by purification by silica gel chromatography to give 2.77 g (76%) of 4-(4-chloro-1-phthalazinyl)-1-piperazinecarboxylic acid tert-butyl ester.

reactant | 1,4-dichlorophthalazine | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | triethylamine | 52.5 mmol, 7.32 ml | C(C)N(CC)CC | C6H15N
reactant | N-tert-butoxycarbonylpiperazine | 2.35 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-(4-chloro-1-phthalazinyl)-1-piperazinecarboxylic acid tert-butyl ester | 2.77 g, 76% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NN=C(C2=CC=CC=C12)Cl | C17H21ClN4O2
